US08431575B2
To a solution of 4-[6-butyl-5-(4-cyclohexyloxy-3-methoxycarbonyl-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.754 mmol, 428 mg) in DCM (6 mL) was added 4 N HCl in dioxane (2 mL) and the reaction mixture was stirred for 1 h. The organic solvents were removed in vacuo and 5-[3-Butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzoic acid methyl ester dihydrochloride was obtained as yellow solid, which was used for next reaction directly

reactant | 4-[6-butyl-5-(4-cyclohexyloxy-3-methoxycarbonyl-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.754 mmol, 428 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C(=O)OC)CCCC | C32H45N3O6
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-[3-Butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzoic acid methyl ester dihydrochloride | Cl.Cl.COC(C1=C(C=CC(=C1)C1=C(N=NC(=C1)OC1CCNCC1)CCCC)OC1CCCCC1)=O | InChI=1S/C27H37N3O4.2ClH/c1-3-4-10-24-22(18-26(30-29-24)34-21-13-15-28-16-14-21)19-11-12-25(23(17-19)27(31)32-2)33-20-8-6-5-7-9-20;;/h11-12,17-18,20-21,28H,3-10,13-16H2,1-2H3;2*1H
